US07910561B2
[4-(7-Oxido-3-phenyl-1,7-naphthyridin-2-yl)phenyl]methanol (5-3)
To a solution of [4-(3-phenyl-1,7-naphthyridin-2-yl)phenyl]methanol (142 mg, 0.455 mmol) in chloroform (3 mL) was added a solution of m-chloroperbenzoic acid (85%, 105 mg, 0.47 mmol) in chloroform (2 mL). The reaction was stirred over night and then the solvent was removed in vacuo. The residue was digested with diethyl ether twice to remove the m-chlorobenzoic acid and give the title compound as a yellow solid. 1H-NMR (500 MHz, CDCl3): δ 9.07 (1H, s), 8.24 (1H, d, J=6.8 Hz), 8.09 (1H, s), 7.70 (1H, d, J=7.1 Hz), 7.41 (2H, d, J=8.1 Hz), 7.22-7.39 (7H, m), 4.71 (2H, s). m/e (m+1): 329.2.

reactant | [4-(3-phenyl-1,7-naphthyridin-2-yl)phenyl]methanol | 0.455 mmol, 142 mg | C1(=CC=CC=C1)C=1C(=NC2=CN=CC=C2C1)C1=CC=C(C=C1)CO | C21H16N2O
reactant | m-chloroperbenzoic acid | 0.47 mmol, 105 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | [4-(7-Oxido-3-phenyl-1,7-naphthyridin-2-yl)phenyl]methanol | [O-][N+]1=CC=C2C=C(C(=NC2=C1)C1=CC=C(C=C1)CO)C1=CC=CC=C1 | C21H16N2O2
